US04820866
1,2-bis-(4-nitrophenoxy)-ethane
183 g (1 mol) 1-(2-hydroxyethoxy)-4-nitro-benzene, 173.3 g (1.1 mols) 4-nitrochlorobenzene and 70 g powdered sodium hydroxide were reacted following the procedure described in Example 1 in 600 ml DMSO.

reactant | 1-(2-hydroxyethoxy)-4-nitro-benzene | 1 mol, 183 g | OCCOC1=CC=C(C=C1)[N+](=O)[O-] | C8H9NO4
reactant | 4-nitrochlorobenzene | 1.1 mols, 173.3 g | [N+](=O)([O-])C1=CC=C(C=C1)Cl | C6H4ClNO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMSO | 600 ml | CS(=O)C | C2H6OS
product | 1,2-bis-(4-nitrophenoxy)-ethane | [N+](=O)([O-])C1=CC=C(OCCOC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H12N2O6
